US08669234B2
5-(6-Bromo-naphthalen-2-yl)-2-pyrrolidin-2-yl-1H-imidazole (3.80 g), 2-methoxycarbonylamino-3-methyl-butyric acid (2.21 g), and HATU (5.06 g) were dissolved in anhydrous DMF (75 mL), and N-methylmorpholine (2.68 mL) was added. The reaction mixture was stirred at ambient temperature for 16 hours and evaporated under vacuum. The oil was dissolved in dichloromethane, purified by chromatography (0-100% ethyl acetate:hexanes), and evaporated under vacuum, giving (1-{2-[5-(6-bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (0.814 g, 72%) as an off-white solid.

reactant | 5-(6-Bromo-naphthalen-2-yl)-2-pyrrolidin-2-yl-1H-imidazole | 3.80 g | BrC=1C=C2C=CC(=CC2=CC1)C1=CN=C(N1)C1NCCC1 | C17H16BrN3
reactant | 2-methoxycarbonylamino-3-methyl-butyric acid | 2.21 g | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 5.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 2.68 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | (1-{2-[5-(6-bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.814 g, 72% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)Br)=O | C24H27BrN4O3
